US05026401
Preparation of 3-nitro-4-[N,N-di-(β-hydroxyethyl)-amino]-ethylaminophenol.
5.2 g (0.02 mol) of 3-nitro-4-(β-bromoethyl)-aminophenol are heated for 1 hour, at 60° C., in 20 ml of diethanolamine. The reaction medium is poured into 100 g of iced water and the solution is then neutralised with acetic acid. After one night at 0° C., the expected product, which has precipitated, is filtered off. After washing with a small amount of iced water and drying in vacuo, the product is recrystallised from ethyl acetate. It melts at 115° C.

reactant | 3-nitro-4-(β-bromoethyl)-aminophenol | 0.02 mol, 5.2 g | [N+](=O)([O-])C=1C(=C(C=CC1CCBr)O)N | C8H9BrN2O3
reactant | water | 100 g | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | diethanolamine | 20 ml | N(CCO)CCO | C4H11NO2
product | 3-nitro-4-[N,N-di-(β-hydroxyethyl)-amino]-ethylaminophenol | [N+](=O)([O-])C=1C(=C(C=CC1N(CCO)CCO)O)NCC | C12H19N3O5
